US04739066
A mixture of 3(R)-amino-2,3-dihydro-1,5-(5H)-benzothiazepin-4-one (1.0 g), ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate (6.0 g), acetic acid (0.37 g), molecular sieves 3A (3.0 g) and ethanol (25 ml) is stirred at room temperature for 20 minutes. To the stirred mixture is added dropwise a solution of sodium cyanoborohydride (0.66 g) in ethanol (20 ml) over a period of 5 hours. After the reaction mixture is concentrated under reduced pressure, the residue is diluted with a mixture of ethyl acetate (80 ml) and water (100 ml). After the insoluble substance is removed by filtration, the ethyl acetate layer is washed with diluted hydrochloric acid, water and sodium bicarbonate solution successively, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to yield 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one (1.1 g) as a colorless oil.

reactant | 3(R)-amino-2,3-dihydro-1,5-(5H)-benzothiazepin-4-one | 1.0 g | N[C@H]1CSC2=C(NC1=O)C=CC=C2 | C9H10N2OS
reactant | ethyl 6-(1-benzyloxycarbonyl-4-piperidyl)-2-oxohexanoate | 6.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)=O | C21H29NO5
reactant | acetic acid | 0.37 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.66 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3(R)-[5-(1-benzyloxycarbonyl-4-piperidyl)-1-ethoxycarbonylpentyl]amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one | 1.1 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCCCC(C(=O)OCC)N[C@H]1CSC2=C(NC1=O)C=CC=C2 | C30H39N3O5S
